US05376668
B. 3-(3-(5-Cyanopentylthio)-1,2,5-thiadiazol-4-yl)-1-methylpyridinium iodide
Methyl iodide (1 ml, 15 mmol) was added to a solution of 3-(3-(5-cyanopentylthio)-1,2,5-thiadiazol-4-yl)pyridine (3 mmol) in acetone and the reaction mixture was stirred at room temperature for 20 h. and evaporated.

reactant | Methyl iodide | 15 mmol, 1 ml | CI | CH3I
reactant | 3-(3-(5-cyanopentylthio)-1,2,5-thiadiazol-4-yl)pyridine | 3 mmol | C(#N)CCCCCSC1=NSN=C1C=1C=NC=CC1 | C13H14N4S2
solvent | acetone | CC(=O)C | C3H6O
product | 3-(3-(5-Cyanopentylthio)-1,2,5-thiadiazol-4-yl)-1-methylpyridinium iodide | [I-].C(#N)CCCCCSC1=NSN=C1C=1C=[N+](C=CC1)C | InChI=1S/C14H17N4S2.HI/c1-18-9-6-7-12(11-18)13-14(17-20-16-13)19-10-5-3-2-4-8-15;/h6-7,9,11H,2-5,10H2,1H3;1H/q+1;/p-1
